US07291632B2
Preparation 16. 2,4-Difluoro-N-(3-amino-4-fluorophenyl)benzamide
Using a method similar to Preparation 14 using 2,4-Difluoro-N-(4-fluoro-3-nitrophenyl)benzamide (Preparation 13) (1.0 g, 3.38 mmol), SnCl2.2H2O (3.8 g, 16.9 mmol), ethanol (25 mL), and concentrated HCl (25 mL), gives the title intermediate (803 mg, 89% yield): mass spectrum (ion spray): m/z=267.0 (M+1).

reactant | 2,4-Difluoro-N-(4-fluoro-3-nitrophenyl)benzamide | 3.38 mmol, 1.0 g | FC1=C(C(=O)NC2=CC(=C(C=C2)F)[N+](=O)[O-])C=CC(=C1)F | C13H7F3N2O3
reactant | SnCl2.2H2O | 16.9 mmol, 3.8 g | O.O.Cl[Sn]Cl
reactant | HCl | 25 mL | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2,4-Difluoro-N-(3-amino-4-fluorophenyl)benzamide | 803 mg, 89% yield | FC1=C(C(=O)NC2=CC(=C(C=C2)F)N)C=CC(=C1)F | C13H9F3N2O
